US07960552B2
A solution of ethyl 3,5-dicyclopentyl-4-isoxazolecarboxylate (1.57 g, 5.67 mmol) in THF (15.7 mL) was stirred in an ice bath as a 1.5 M solution of diisobutylaluminum hydride in toluene (8.1 mL, 12.1 mmol) was added dropwise. The solution was allowed to stir at 0° C. for 30 minutes then at room temperature for 5.5 hours. An additional portion of diisobutylaluminum hydride (1.6 mL, 2.4 mmol) was added and the solution was allowed to stir for 45 minutes. The solution was cooled in ice bath before the addition of a 10% aqueous solution of Rochelle's salt. The resulting solution was allowed to stir overnight. The solution was extracted with ethyl acetate and the organic layer was dried with MgSO4, filtered and concentrated. The residue was purified by chromatography (silica gel, 3:7 ethyl acetate:hexanes) to provide (3,5-dicyclopentyl-4-isoxazolyl)methanol (0.80 g, 57% as 0.15 ethyl acetate). 1H NMR (400 MHz, DMSO-d6): δ 4.84 (s, 1H), 4.26 (d, J=4 Hz, 2H), 3.30-3.22 (m, overlapping H2O), 3.13-3.06 (m, 1H), 1.98-1.87 (m, 4H), 1.74-1.56 (m, 12H).

reactant | ethyl 3,5-dicyclopentyl-4-isoxazolecarboxylate | 5.67 mmol, 1.57 g | C1(CCCC1)C1=NOC(=C1C(=O)OCC)C1CCCC1 | C16H23NO3
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 12.1 mmol, 8.1 mL | C1(=CC=CC=C1)C | C7H8
reactant | diisobutylaluminum hydride | 2.4 mmol, 1.6 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Rochelle's salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | THF | 15.7 mL | C1CCOC1 | C4H8O
product | (3,5-dicyclopentyl-4-isoxazolyl)methanol | 0.80 g, 57% | C1(CCCC1)C1=NOC(=C1CO)C1CCCC1 | C14H21NO2
